US08648066B2
To a solution of 2-(chloromethyl)-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-ol (2.5 g, 11 mmol) in THF (10 mL) was added dimethyl amine (2M in THF, 16.5 mL, 33 mmol). The reaction mixture was heated (60° C.) for two hours and then partitioned between ethyl acetate and sodium bicarbonate. The organic layer was washed with brine, dried over magnesium sulfate, filtered and concentrated to provide 2-((dimethylamino)methyl)-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-ol, which was used in step 3 without further purification. MS (ES) for C13H21N3O: 236 (MH+).

reactant | 2-(chloromethyl)-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-ol | 11 mmol, 2.5 g | ClCC1=NC=2CCC(CC2C(=N1)O)(C)C | C11H15ClN2O
reactant | dimethyl amine | 33 mmol, 2M, 16.5 mL | CNC | C2H7N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-((dimethylamino)methyl)-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-ol | CN(C)CC1=NC=2CCC(CC2C(=N1)O)(C)C | C13H21N3O
